US07943607B2
N-(2-{[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}ethyl)-2,4-difluoro-N-(phenylmethyl)benzenesulfonamide
The following process was carried out according to literature precedent (JOC, 1988, 53 (7), 1372). 2,4-Difluorobenzenesulphonyl chloride (436 mg, 2.05 mmol) was added slowly to a stirred solution of 2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-N-(phenylmethyl)ethanamine (600 mg, 2.26 mmol) in a 1:1 mixture of 10% sodium hydroxide solution and DCM (80 mL) at 0° C. The reaction mixture was allowed to warm up to RT and left to stir for 5 hours. The phases were separated and the aqueous phase was extracted with DCM (3×50 mL). The combined extracts were dried (MgSO4), filtered and evaporated to afford the title compound as a colourless oil (939 mg).

reactant | 2,4-Difluorobenzenesulphonyl chloride | 2.05 mmol, 436 mg | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-N-(phenylmethyl)ethanamine | 2.26 mmol, 600 mg | CC(C)(C)[Si](OCCNCC1=CC=CC=C1)(C)C | C15H27NOSi
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | N-(2-{[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}ethyl)-2,4-difluoro-N-(phenylmethyl)benzenesulfonamide | 939 mg | CC(C)(C)[Si](OCCN(S(=O)(=O)C1=C(C=C(C=C1)F)F)CC1=CC=CC=C1)(C)C | C21H29F2NO3SSi
